US09194851B2
6-Mercaptohexyl isocyanuric acid (MH-ICA) was synthesized using methods and materials known in the art (see, e.g. Jogireddy et al., J. Synlett 2008, 1219-1221). Briefly, a solution of 6-bromohexyl isocyanuric acid (224 mg, 0.77 mmol) and thiourea (65 mg, 0.853 mmol) in ethanol (40 mL) was degassed (freeze, pump, thaw) thrice, and refluxed under an atmosphere of Ar for 24 h. After cooling down to room temperature, 2 mL NaOH (5 M) aqueous solution was added. The reaction solution was again degassed (freeze, pump, thaw) thrice and slowly heated to reflux. After refluxing for 24 h under Ar atmosphere and cooling down to room temperature, the mixture solution was acidified with 1 mL HCl (2 M) aqueous solution. The precipitate was filtered and extensively washed with deionized H2O to give the pure product, 6-mercaptohexyl isocyanuric acid (MH-ICA) in a yield of 85% (210 mg). 1H NMR (500 MHz, DMSO-d6) δ: 11.38 (s, 1H), 3.61 (t, 2H), 2.68 (s, 2H), 1.60 (m, 2H), 1.50 (m, 2H), 1.35 (m, 2H), 1.26 (m, 2H) ppm; 13C NMR (125 MHz, DMSO-d6) δ: 149.84, 148.64, 40.32, 37.71, 28.42, 27.41, 27.21, 25.70 ppm. ESI-MS (M+): 246.94 (calculated 246.09).

reactant | 6-bromohexyl isocyanuric acid | 0.77 mmol, 224 mg | BrCCCCCCN1C(=O)NC(=O)NC1=O | C9H14BrN3O3
reactant | thiourea | 0.853 mmol, 65 mg | NC(=S)N | CH4N2S
reactant | NaOH | 5 M, 2 mL | [OH-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 6-mercaptohexyl isocyanuric acid | SCCCCCCN1C(=O)NC(=O)NC1=O | C9H15N3O3S
